US07291619B2
1-Boc-4-(2-ethanesulfonylamino-phenyl)-piperazine
To a solution of 1.0 g (4.4 mmol) of 1-Boc-4-(2-amino-phenyl)-piperazine and 1.1 mL (6.6 mmol) of triethylamine in 12 mL of DCM was added 0.63 mL (6.6 mmol) of ethanesulfonyl chloride, and the mixture was stirred at r.t. for about 16 hours. The mixture was diluted with ethyl acetate and washed once with 10% aqueous sodium bisulfate and then once with saturated aqueous sodium bicarbonate. The organic portion was dried (Na2SO4), filtered and concentrated in vacuo. Silica gel chromatography (3iotage, 40% ethyl acetate/hexanes) of the residue afforded about 0.73 g (45%) of the title compound. LRMS (ESI−): 368 (M−1)

reactant | 1-Boc-4-(2-amino-phenyl)-piperazine | 4.4 mmol, 1.0 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)N | C15H23N3O2
reactant | triethylamine | 6.6 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
reactant | ethanesulfonyl chloride | 6.6 mmol, 0.63 mL | C(C)S(=O)(=O)Cl | C2H5ClO2S
solvent | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Boc-4-(2-ethanesulfonylamino-phenyl)-piperazine | about 0.73 g, 45% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)CC | C17H27N3O4S
